US06358973B1
2-(3-Methoxy-phenyl)-8-phenyl-octan-nitrile
By working in a way similar to that described in example 2 but using toluen-4-sulphonic acid 6-phenyl-hexyl ester (5.4 g, 16.24 mmoles), obtained as described in example 11, 3-methoxy-phenyl-acetonitrile (2.39 g, 16.24 mmoles), NaH (55-65%, 715 mg, 17.86 mmoles) and DMF (25 ml), 2.7 g of the title compound were obtained (yield: 54.1%).

reactant | toluen-4-sulphonic acid 6-phenyl-hexyl ester | 16.24 mmoles, 5.4 g | C1(=CC=CC=C1)CCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S
reactant | 3-methoxy-phenyl-acetonitrile | 16.24 mmoles, 2.39 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | NaH | 17.86 mmoles, 715 mg | [H-].[Na+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-(3-Methoxy-phenyl)-8-phenyl-octan-nitrile | 2.7 g, yield: 54.1% | COC=1C=C(C=CC1)C(C#N)CCCCCCC1=CC=CC=C1 | C21H25NO
